US04349684
8-(3.4-Diphenyl-2-oxo-4-imidazolin-1-yl)-caprylic acid methyl ester
The product is produced as described in example 1 from 2.34 g of NaH (80% suspension in mineral oil), 18.5 g of 1.5-diphenyl-4-imidazolin-2-one, 160 cc. of DMF, 18.5 g of 8-bromocaprylic acid methyl ester and 2.34 g of NaJ.

reactant | NaH | 2.34 g | [H-].[Na+]
reactant | 1.5-diphenyl-4-imidazolin-2-one | 18.5 g | C1(=CC=CC=C1)N1C(NC=C1C1=CC=CC=C1)=O | C15H12N2O
reactant | 8-bromocaprylic acid methyl ester | 18.5 g | COC(CCCCCCCBr)=O | C9H17BrO2
solvent | DMF | CN(C)C=O | C3H7NO
product | 8-(3.4-Diphenyl-2-oxo-4-imidazolin-1-yl)-caprylic acid methyl ester | COC(CCCCCCCN1C(N(C(=C1)C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C24H28N2O3
